       SWITCHED CAPCITOR ELEMENTS AND FILTERS

SYMBOL    FUNCTION               PARAMETERS

ZOH       ZERO ORDER HOLD        TD=DELAY TIME
UTD       UNIT TIME DELAY        TD=DELAY TIME, K=GAIN
CRES	  RESISTOR PROPORTIONAL  C=C VALUE
          TO 1 / C

NSTR      NEGATIVE STORISTOR     C=C VALUE, TD=TIME DELAY
PSTR      POSITIVE STORISTOR     C=C VALUE, TD=TIME DELAY

ZINT      SCN INTEGRATOR         C=C VALUE, TD=TIME DELAY
TSWITCH   TOGGLE SWITCH          C=C VALUE, TD=TIME DELAY
LSWITCH   LOGIC SWITCH           NONE

NOTE: DELAYS FOR SCN CIRCUITS ARE USUALLY THE HALF PERIOD DELAY
      OR THE TIME BETWEEN PHASE 1 AND PHASE 2

Switched Capacitor Filters using Laplace based models

SYMBOL       PART #            DESCRIPTION

LT59L50      LTC1059    Sa-Low, Summer tied to AGND, Gain=50
LT59H50      LTC1059    Sa-High, Summer tied to LP, Gain=50
LT59L100     LTC1059    Sa-Low, Summer tied to AGND, Gain=100
LT59H100     LTC1059    Sa-High, Summer tied to LP, Gain=100

LT60L50      LTC1060    Sab-Low, Summer tied to AGND, Gain=50
LT60H50      LTC1060    Sab-High, Summer tied to LP, Gain=50
LT60L100     LTC1060    Sab-Low, Summer tied to AGND, Gain=100
LT60H100     LTC1060    Sab-High, Summer tied to LP, Gain=100

LT6450       LTC1064    Gain=50
LT64100      LTC1064    Gain=100 

MF5L50       MF5        Sa-Low, Summer tied to AGND, Gain=50
MF5H50       MF5        Sa-High, Summer tied to LP, Gain=50
MF5L100      MF5        Sa-Low, Summer tied to AGND, Gain=100
MF5H100      MF5        Sa-High, Summer tied to LP, Gain=100

MF10L50      MF10       Sab-Low, Summer tied to AGND, Gain=50
MF10H50      MF10       Sab-High, Summer tied to LP, Gain=50
MF10L100     MF10       Sab-Low, Summer tied to AGND, Gain=100
MF10H100     MF10       Sab-High, Summer tied to LP, Gain=100

A set of symbols using the DIP package configuration has also 
been included for use with SpiceNet. The following symbols will 
call the same subcircuit netlist that the symbols shown above use. 
For example, the LT60L50D uses the same subcircuit that the 
LT60L50 does.

LT60L50D     LTC1060    Sab-Low, Summer tied to AGND, Gain=50
LT60H50D     LTC1060    Sab-High, Summer tied to LP, Gain=50
LT60L10D     LTC1060    Sab-Low, Summer tied to AGND, Gain=100
LT60H10D     LTC1060    Sab-High, Summer tied to LP, Gain=100
LT6450D      LTC1064    Gain=50
LT6410D      LTC1064    Gain=100

Switched Capacitor Filters using Z transform based models

MF10ZL50      MF10       Sab-Low, Summer tied to AGND, Gain=50
MF10ZH50      MF10       Sab-High, Summer tied to LP, Gain=50
MF10ZL100     MF10       Sab-Low, Summer tied to AGND, Gain=100
MF10ZH100     MF10       Sab-High, Summer tied to LP, Gain=100

Other models labeled SCNAMP## are also stored in this file and are 
used within the switched capacitor filter subcircuits.

*********
CALL USING ... ZOH 1 2 {TD=DELAY TIME, K=GAIN}
.SUBCKT ZOH 1 2
*ZERO ORDER HOLD
*(1-Z^-1)/(TD*S)
RIN 1 0 1E6
E1 3 0 1 0 {K}
T1 3 0 4 0 Z0=1 TD={TD}
RT1 4 0 1
R1 3 5 -1K
R2 4 5 1K
C1 5 2 {TD*1M} IC=0
RC1 5 2 1E12
EG 2 0 5 0 -1E6
.ENDS
**********
CALL USING ... UTD {K=GAIN TD=DELAY}
.SUBCKT UTD 1 2
* UNIT TIME DELAY
RIN 1 0 1E15
E1 3 0 1 0 {K}
T1 3 0 2 0 Z0=1 TD={TD}
R1 2 0 1
.ENDS
*************
CALL USING ... NSTR {TD=HALF UNIT DELAY C=CAPACITANCE}
.SUBCKT NSTR 1 2
*NEGATIVE STORISTER I = 1E9 * (- C * Z^-1/2)
E1 3 0 1 2 1
T1 3 0 4 0 Z0=1000 TD={TD}
RT 4 0 1000
G1 1 2 0 4 {C*1E9}
.ENDS
***************
CALL USING ... PSTR {TD=HALF UNIT DELAY C=CAPACITANCE}
.SUBCKT PSTR 1 2
* STORISTER I =  1E9*(C * Z^-1/2)
E1 3 0 1 2 1
T1 3 0 4 0 Z0=1000 TD={TD}
RT 4 0 1000
G1 1 2 4 0 {C*1E9}
.ENDS
***************
.SUBCKT CRES 1 2
R1 1 2 {1E-9/C}
.ENDS
**************
* PASS C= CAP VAL, TD=Z^-1/2 DELAY TIME
.SUBCKT ZINT 1 2 3 4 
* 2 PHASE INT, 1 3 ARE ODD IN->OUT; 2,4 ARE EVEN
R1 1 3 {1E-9/C}
R2 2 4 {1E-9/C}
E13 3 0 1 0 -1E6
E24 4 0 2 0 -1E6
G14 1 4 0 31 {C*1E9}
R14 31 0 1000
T14 30 0 31 0 Z0=1000 TD={TD}
E14 30 0 1 4 1
G23 2 3 0 41 {C*1E9}
R23 41 0 1000
T23 40 0 41 0 Z0=1000 TD={TD}
E23 40 0 2 3 1
.ENDS
*************
* PASS C AND TD
.SUBCKT ZCAP 1 2 3 4
*FLOATING CAPACITOR
*1,2 ARE ODD, EVEN INPUT; 3,4 ODD,EVEN OUTPUT
R13 1 3 {1E-9/C}
R24 2 4 {1E-9/C}
G14 1 4 0 31 {C*1E9}
R14 31 0 1000
T14 30 0 31 0 Z0=1000 TD={TD}
E14 30 0 1 4 1
G23 2 3 0 21 {C*1E9}
R23 21 0 1000
T23 20 0 21 0 Z0=1000 TD={TD}
E23 20 0 2 3 1
.ENDS
**************
*SAME AS SWITCH IN DEVICE.LIB, BUT CONTROL AT NODE 3
*USES A 6TH ORDER POLY TO MAKE RIPPLE NEAR 0 VERY SMALL
*USED TO INTERFACE WITH THRESHOLD LOGIC WITH 0V AND 1V LEVELS
.SUBCKT LSWITCH 1 2 3    
*LOGIC INTEFACE 0=OFF, 1E12; 1 = ON, 1K
R1 1 2 1E12     
R3 3 0 1E12
E1 4 0 POLY(1) 3 0 0 0 0 0 0 0 1
R4 4 0 1E6
G1 1 2 POLY(2) 1 2 4 0 0 0 0 0 1M
.ENDS   
*************
* PASS C AND TD
.SUBCKT TSWITCH 3 1 4 2
*TOGGLE SWITCH, SAME AS FLOATING CAPACITOR TURNED SIDEWAYS
*2,4 ARE PHASE 2 SWITCH TERMINALS
*1,3 ARE PHASE 1 SWITCH TERMINALS
R13 1 3 {1E-9/C}
R24 2 4 {1E-9/C}
G14 1 4 0 31 {C*1E9}
R14 31 0 1000
T14 30 0 31 0 Z0=1000 TD={TD}
E14 30 0 1 4 1
G23 2 3 0 21 {C*1E9}
R23 21 0 1000
T23 20 0 21 0 Z0=1000 TD={TD}
E23 20 0 2 3 1
.ENDS
************
*CALL USING ZSUM ... {C=CAP VALUE TD=HALF SAMPLE DELAY TIME}
*SIMPLIFIED TOGGLE SWITCH FOR CONNECTION TO AN INTEGRATOR
*FROM VOLTAGE SOURCES
.SUBCKT ZSUM 1 2 4 
*1 IS THE ODD INPUT FOR INVERTING
*2 IS THE EVEN INPUT FOR SUMMING
*4 IS THE EVEN OUTPUT FOR CHARGE TRANSFER
R24 2 4 {1E-9/C}
G14 1 4 0 31  {C*1E9}
R14 31 0 1000
T14 30 0 31 0 Z0=1000 TD={TD}
E14 30 0 1 4 1
.ENDS
**********
.SUBCKT MF10L50 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections   INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 50, SAB switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP10
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP10
X15 13 19 SINT  {K=62.5K } 
X16 22 20 SINT  {K=62.5K } 
X14 15 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60L50 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections   INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 50, SAB switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=62.5K } 
X16 22 20 SINT  {K=62.5K } 
X14 15 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60L50D 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 50, SAB switch set low
*Subcircuit for DIP package
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=62.5K } 
X16 22 20 SINT  {K=62.5K } 
X14 15 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
**********
.SUBCKT MF10L100 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 100, SAB switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP10
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP10
X15 13 19 SINT  {K=31.25K } 
X16 22 20 SINT  {K=31.25K } 
X14 15 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60L100 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 100, SAB switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
*
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=31.25K } 
X16 22 20 SINT  {K=31.25K } 
X14 15 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60L10D 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 100, SAB switch set low
*Subcircuit for DIP package
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
*
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=31.25K } 
X16 22 20 SINT  {K=31.25K } 
X14 15 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
**********
.SUBCKT MF10H50 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections   INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 50, SAB switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP10
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP10
X15 13 19 SINT  {K=62.5K } 
X16 22 20 SINT  {K=62.5K } 
X14 20 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60H50 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections   INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 50, SAB switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=62.5K } 
X16 22 20 SINT  {K=62.5K } 
X14 20 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60H50D 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 50, SAB switch set high
*Subcircuit for DIP package
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=62.5K } 
X16 22 20 SINT  {K=62.5K } 
X14 20 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
**********
.SUBCKT MF10H100 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 100, SAB switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP10
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP10
X15 13 19 SINT  {K=31.25K } 
X16 22 20 SINT  {K=31.25K } 
X14 20 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60H100 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 100, SAB switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
*
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=31.25K } 
X16 22 20 SINT  {K=31.25K } 
X14 20 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
*******
.SUBCKT LT60H10D 4    15   3   5   2   1   17   19  20  10   11   18  16 
* Connections    INVA AGND HPA S1A BPA LPA INVB BPB LPB CLKA CLKB HPB S1B
*Gain = 100, SAB switch set high
*Subcircuit for DIP package
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP60
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
*
X12 6 11 13 MUL  {K=1 } 
X13 19 11 22 MUL  {K=1 } 
XE3 17 15 18 SCNAMP60
X15 13 19 SINT  {K=31.25K } 
X16 22 20 SINT  {K=31.25K } 
X14 20 18 16 6 SUM3  {K1=-1 K2=1 K3=-1 } 
.ENDS
*INCLUDE SYS.LIB
**********
.SUBCKT LT59H100 4    15   3  5  2  1  16   17  10  
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 100, S1 switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP59
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
X11 16 15 17 SCNAMP59 
.ENDS
*INCLUDE SYS.LIB
************
.SUBCKT LT59H50  4    15   3  5  2  1  16   17  10
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 50, S1 switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP59
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K }
X11 16 15 17 SCNAMP59 
.ENDS
*INCLUDE SYS.LIB
**********
.SUBCKT LT59L100 4    15   3  5  2  1  16   17  10
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 100, S1 switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP59
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
X11 16 15 17 SCNAMP59 
.ENDS
*INCLUDE SYS.LIB
************
.SUBCKT LT59L50  4    15   3  5  2  1  16   17  10
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 50, S1 switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP59
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X11 16 15 17 SCNAMP59 
.ENDS
*INCLUDE SYS.LIB
**********
.SUBCKT  MF5H100 4    15   3  5  2  1  16   17  10
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 100, S1 switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP5
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
X11 16 15 17 SCNAMP5
.ENDS
*INCLUDE SYS.LIB
************
.SUBCKT MF5H50   4    15   3  5  2  1  16   17  10
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 50, S1 switch set high
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 1 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP5
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X11 16 15 17 SCNAMP5
.ENDS
*INCLUDE SYS.LIB
**********
.SUBCKT MF5L100  4    15   3  5  2  1  16   17  10
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 100, S1 switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP5
X9 9 2 SINT  {K=31.25K } 
X10 7 1 SINT  {K=31.25K } 
X11 16 15 17 SCNAMP5
.ENDS
*INCLUDE SYS.LIB
************
.SUBCKT MF5L50   4    15   3  5  2  1  16   17  10
* Connections    INV1 AGND HP S1 BP LP INV2 V02 CLK
*Gain = 50, S1 switch set low
X3 2 10 7 MUL  {K=1 } 
X1 14 10 9 MUL  {K=1 } 
X8 15 3 5 14 SUM3  {K1=-1 K2=1 K3=-1 } 
XE2 4 15 3 SCNAMP5
X9 9 2 SINT  {K=62.5K } 
X10 7 1 SINT  {K=62.5K } 
X11 16 15 17 SCNAMP5
.ENDS
*INCLUDE SYS.LIB
*****************
.SUBCKT LT64100 3 2 1 33 28 10 4 6 14 29 12 5 22 24 30 13 8 31 32 26 17
*Connections   INVA AGND HPA SA BPA LPA INVB HPB SB BPB LPB 
*Connections                    INVC HPC SC BPC LPC INVD HPD BPD LPD CLK
X10 16 17 18 MUL  {K=1 } 
X11 28 17 20 MUL  {K=1 } 
X12 18 28 SINT  {K=31.25K } 
X13 20 10 SINT  {K=31.25K } 
X15 1 33 16 SUM2  {K1=1 K2=-1 }
X16 4 2 6 SCNAMP64
X17 7 17 9 MUL  {K=1 } 
X18 29 17 11 MUL  {K=1 } 
X19 9 29 SINT  {K=31.25K } 
X20 11 12 SINT  {K=31.25K } 
X21 6 14 7 SUM2  {K1=1 K2=-1 }
X22 5 2 22 SCNAMP64
X23 23 17 25 MUL  {K=1 } 
X24 30 17 27 MUL  {K=1 } 
X25 25 30 SINT  {K=31.25K } 
X26 27 13 SINT  {K=31.25K } 
X27 22 24 23 SUM2  {K1=1 K2=-1 }
X28 8 2 31 SCNAMP64
X29 31 17 34 MUL  {K=1 } 
X30 32 17 36 MUL  {K=1 } 
X31 34 32 SINT  {K=31.25K } 
X32 36 26 SINT  {K=31.25K } 
X5 3 2 1 SCNAMP64
.ENDS
*INCLUDE SYS.LIB
*****************
.SUBCKT LT6410D 3 2 1 33 28 10 4 6 14 29 12 5 22 24 30 13 8 31 32 26 17
*Connections   INVA AGND HPA SA BPA LPA INVB HPB SB BPB LPB 
*Connections                    INVC HPC SC BPC LPC INVD HPD BPD LPD CLK
* Subcircuit for DIP package
X10 16 17 18 MUL  {K=1 } 
X11 28 17 20 MUL  {K=1 } 
X12 18 28 SINT  {K=31.25K } 
X13 20 10 SINT  {K=31.25K } 
X15 1 33 16 SUM2  {K1=1 K2=-1 }
X16 4 2 6 SCNAMP64
X17 7 17 9 MUL  {K=1 } 
X18 29 17 11 MUL  {K=1 } 
X19 9 29 SINT  {K=31.25K } 
X20 11 12 SINT  {K=31.25K } 
X21 6 14 7 SUM2  {K1=1 K2=-1 }
X22 5 2 22 SCNAMP64
X23 23 17 25 MUL  {K=1 } 
X24 30 17 27 MUL  {K=1 } 
X25 25 30 SINT  {K=31.25K } 
X26 27 13 SINT  {K=31.25K } 
X27 22 24 23 SUM2  {K1=1 K2=-1 }
X28 8 2 31 SCNAMP64
X29 31 17 34 MUL  {K=1 } 
X30 32 17 36 MUL  {K=1 } 
X31 34 32 SINT  {K=31.25K } 
X32 36 26 SINT  {K=31.25K } 
X5 3 2 1 SCNAMP64
.ENDS
*INCLUDE SYS.LIB
*****************
.SUBCKT LT6450 3 2 1 33 28 10 4 6 14 29 12 5 22 24 30 13 8 31 32 26 17
*Connections   INVA AGND HPA SA BPA LPA INVB HPB SB BPB LPB 
*Connections                    INVC HPC SC BPC LPC INVD HPD BPD LPD CLK
X10 16 17 18 MUL  {K=1 } 
X11 28 17 20 MUL  {K=1 } 
X12 18 28 SINT  {K=62.5K } 
X13 20 10 SINT  {K=62.5K } 
X15 1 33 16 SUM2  {K1=1 K2=-1 }
X16 4 2 6 SCNAMP64
X17 7 17 9 MUL  {K=1 } 
X18 29 17 11 MUL  {K=1 } 
X19 9 29 SINT  {K=62.5K } 
X20 11 12 SINT  {K=62.5K } 
X21 6 14 7 SUM2  {K1=1 K2=-1 }
X22 5 2 22 SCNAMP64
X23 23 17 25 MUL  {K=1 } 
X24 30 17 27 MUL  {K=1 } 
X25 25 30 SINT  {K=62.5K } 
X26 27 13 SINT  {K=62.5K } 
X27 22 24 23 SUM2  {K1=1 K2=-1 }
X28 8 2 31 SCNAMP64
X29 31 17 34 MUL  {K=1 } 
X30 32 17 36 MUL  {K=1 } 
X31 34 32 SINT  {K=62.5K } 
X32 36 26 SINT  {K=62.5K } 
X5 3 2 1 SCNAMP64
.ENDS
*INCLUDE SYS.LIB
*****************
.SUBCKT LT6450D 3 2 1 33 28 10 4 6 14 29 12 5 22 24 30 13 8 31 32 26 17
*Connections   INVA AGND HPA SA BPA LPA INVB HPB SB BPB LPB 
*Connections                    INVC HPC SC BPC LPC INVD HPD BPD LPD CLK
*Subcircuit for DIP package
X10 16 17 18 MUL  {K=1 } 
X11 28 17 20 MUL  {K=1 } 
X12 18 28 SINT  {K=62.5K } 
X13 20 10 SINT  {K=62.5K } 
X15 1 33 16 SUM2  {K1=1 K2=-1 }
X16 4 2 6 SCNAMP64
X17 7 17 9 MUL  {K=1 } 
X18 29 17 11 MUL  {K=1 } 
X19 9 29 SINT  {K=62.5K } 
X20 11 12 SINT  {K=62.5K } 
X21 6 14 7 SUM2  {K1=1 K2=-1 }
X22 5 2 22 SCNAMP64
X23 23 17 25 MUL  {K=1 } 
X24 30 17 27 MUL  {K=1 } 
X25 25 30 SINT  {K=62.5K } 
X26 27 13 SINT  {K=62.5K } 
X27 22 24 23 SUM2  {K1=1 K2=-1 }
X28 8 2 31 SCNAMP64
X29 31 17 34 MUL  {K=1 } 
X30 32 17 36 MUL  {K=1 } 
X31 34 32 SINT  {K=62.5K } 
X32 36 26 SINT  {K=62.5K } 
X5 3 2 1 SCNAMP64
.ENDS
*INCLUDE SYS.LIB
**************
.SUBCKT SCNAMP60 2    3  6
*                - IN + OUT       
*PARAMS ARE GAIN=85.000  FT=2.0000MEG IOS=1.0000P VOS=1.0000M IBIAS=3.0000P     
*GAIN IS IN db  
RIP 3 0 10MEG   
CIP 3 0 1.4PF   
IBN 2 0 3.0000P 
RIN 2 0 10MEG   
CIN 2 0 1.4PF   
VOFST 2 10 1.0000M      
RID 10 3 200K   
EA 11 0 10 3 1  
R1 11 12 5K     
R2 12 13 50K    
C1 12 0 6.5000P 
GA 0 14 0 13 240.07     
C2 13 14 1.3500P
RO 14 0 75      
L 14 6 15.000U  
RL 14 6 1000    
CL 6 0 3PF      
.ENDS   
**************
.SUBCKT SCNAMP59 2    3  6
*                - IN + OUT       
*PARAMS ARE GAIN=80.000  FT=2.0000MEG IOS=1.0000P VOS=1.0000M IBIAS=3.0000P     
*GAIN IS IN db  
RIP 3 0 10MEG   
CIP 3 0 1.4PF   
IBN 2 0 3.0000P 
RIN 2 0 10MEG   
CIN 2 0 1.4PF   
VOFST 2 10 1.0000M      
RID 10 3 200K   
EA 11 0 10 3 1  
R1 11 12 5K     
R2 12 13 50K    
C1 12 0 6.5000P 
GA 0 14 0 13 135.00     
C2 13 14 1.3500P
RO 14 0 75      
L 14 6 15.000U  
RL 14 6 1000    
CL 6 0 3PF      
.ENDS   
*****************
.SUBCKT SCNAMP64 2    3  6
*                - IN + OUT
*PARAMS ARE GAIN=80.000  FT=7.0000MEG IOS=1.0000P VOS=1.0000M IBIAS=3.0000P     
*GAIN IS IN db  
RIP 3 0 10MEG   
CIP 3 0 1.4PF   
IBN 2 0 3.0000P 
RIN 2 0 10MEG   
CIN 2 0 1.4PF   
VOFST 2 10 1.0000M      
RID 10 3 200K   
EA 11 0 10 3 1  
R1 11 12 5K     
R2 12 13 50K    
C1 12 0 1.8571P 
GA 0 14 0 13 135.00     
C2 13 14 385.71F
RO 14 0 75      
L 14 6 4.2857U  
RL 14 6 1000    
CL 6 0 3PF      
.ENDS   
************
.SUBCKT SCNAMP10 2    3  6
*                - IN + OUT
*PARAMS ARE GAIN=83.000  FT=2.5000MEG IOS=1.0000P VOS=5.0000M IBIAS=10.0000P    
*GAIN IS IN db  
RIP 3 0 10MEG   
CIP 3 0 1.4PF   
IBN 2 0 10.0000P
RIN 2 0 10MEG   
CIN 2 0 1.4PF   
VOFST 2 10 5.0000M      
RID 10 3 200K   
EA 11 0 10 3 1  
R1 11 12 5K     
R2 12 13 50K    
C1 12 0 5.2000P 
GA 0 14 0 13 190.69     
C2 13 14 1.0800P
RO 14 0 75      
L 14 6 12.000U  
RL 14 6 1000    
CL 6 0 3PF      
.ENDS   
****************
.SUBCKT SCNAMP5 2    3  6
*               - IN + OUT
*PARAMS ARE GAIN=80.000  FT=2.5000MEG IOS=1.0000P VOS=5.0000M IBIAS=10.0000P    
*GAIN IS IN db  
RIP 3 0 10MEG   
CIP 3 0 1.4PF   
IBN 2 0 10.0000P
RIN 2 0 10MEG   
CIN 2 0 1.4PF   
VOFST 2 10 5.0000M      
RID 10 3 200K   
EA 11 0 10 3 1  
R1 11 12 5K     
R2 12 13 50K    
C1 12 0 5.2000P 
GA 0 14 0 13 135.00     
C2 13 14 1.0800P
RO 14 0 75      
L 14 6 12.000U  
RL 14 6 1000    
CL 6 0 3PF      
.ENDS   
***************
.SUBCKT SCNAMP  2    3  6   
*             - IN   +  OUT 
*DERIVED FROM OPAMP IN LIN.LIB
*
RIP 3 0 10MEG
CIP 3 0 1.4PF
IBN 2 0 1.0000P
RIN 2 0 10MEG
CIN 2 0 1.4PF
VOFST 2 10 
RID 10 3 200K
EA 11 0 10 3 1
R1 11 12 5K
R2 12 13 50K
C1 12 0 5.2000P
GA 0 14 0 13 378.00 
C2 13 14 1.0800P
RO 14 0 75
L 14 6 12.000U
RL 14 6 1000
CL 6 0 3PF
.ENDS
*********
.SUBCKT MF10HZ50 15  4    3   2   5   20  19  16  1   18  17 
*Connections   AGND INVA HPA BPA S1A LPB BPB S1B LPA HPB INVB
*FOR GAIN OF 100 DEFINE /SCNCAP=2P, 
*FOR GAIN OF 50 DEFINE /SCNCAP=4P
*DEFINE /SCNCAP=4P
X19 31 30 19 34 ZINT  {TD=1U C=32P } 
X2 35 36 2 33 ZINT  {TD=1U C=32P } 
X4 1 35 CRES  {C= /SCNCAP } 
X5 5 35 CRES  {C= /SCNCAP } 
X8 2 29 NSTR  {TD=1U C= /SCNCAP } 
X9 28 29 1 32 ZINT  {TD=1U C=32P } 
XE1 4 15 3 SCNAMP
X11 3 35 NSTR  {TD=1U C= /SCNCAP } 
X20 20 31 CRES  {C= /SCNCAP } 
X21 16 31 CRES  {C= /SCNCAP } 
X22 19 38 NSTR  {TD=1U C= /SCNCAP } 
X23 37 38 20 40 ZINT  {TD=1U C=32P } 
X24 18 31 NSTR  {TD=1U C= /SCNCAP } 
XE2 17 15 18 SCNAMP
.ENDS
*********
.SUBCKT MF10HZ100 15  4    3   2   5   20  19  16  1   18  17 
*Connections   AGND INVA HPA BPA S1A LPB BPB S1B LPA HPB INVB
*FOR GAIN OF 100 DEFINE /SCNCAP=2P, 
*FOR GAIN OF 50 DEFINE /SCNCAP=4P
*DEFINE /SCNCAP=2P
X19 31 30 19 34 ZINT  {TD=1U C=32P } 
X2 35 36 2 33 ZINT  {TD=1U C=32P } 
X4 1 35 CRES  {C= /SCNCAP } 
X5 5 35 CRES  {C= /SCNCAP } 
X8 2 29 NSTR  {TD=1U C= /SCNCAP } 
X9 28 29 1 32 ZINT  {TD=1U C=32P } 
XE1 4 15 3 SCNAMP
X11 3 35 NSTR  {TD=1U C= /SCNCAP } 
X20 20 31 CRES  {C= /SCNCAP } 
X21 16 31 CRES  {C= /SCNCAP } 
X22 19 38 NSTR  {TD=1U C= /SCNCAP } 
X23 37 38 20 40 ZINT  {TD=1U C=32P } 
X24 18 31 NSTR  {TD=1U C= /SCNCAP } 
XE2 17 15 18 SCNAMP
.ENDS
**************
.SUBCKT MF10LZ50 15  4    3   2   5   20  19  16  1   18  17 
*Connections   AGND INVA HPA BPA S1A LPB BPB S1B LPA HPB INVB
*FOR GAIN OF 100 DEFINE /SCNCAP=2P, 
*FOR GAIN OF 50 DEFINE /SCNCAP=4P
*DEFINE /SCNCAP=4P
X19 31 30 19 34 ZINT  {TD=1U C=32P } 
X2 35 36 2 33 ZINT  {TD=1U C=32P } 
X4 15 35 CRES  {C= /SCNCAP } 
X5 5 35 CRES  {C= /SCNCAP } 
X8 2 29 NSTR  {TD=1U C= /SCNCAP } 
X9 28 29 1 32 ZINT  {TD=1U C=32P } 
XE1 4 15 3 SCNAMP
X11 3 35 NSTR  {TD=1U C= /SCNCAP } 
X20 15 31 CRES  {C= /SCNCAP } 
X21 16 31 CRES  {C= /SCNCAP } 
X22 19 38 NSTR  {TD=1U C= /SCNCAP } 
X23 37 38 20 40 ZINT  {TD=1U C=32P } 
X24 18 31 NSTR  {TD=1U C= /SCNCAP } 
XE2 17 15 18 SCNAMP
.ENDS
*********
.SUBCKT MF10LZ100 15  4    3   2   5   20  19  16  1   18  17 
*Connections   AGND INVA HPA BPA S1A LPB BPB S1B LPA HPB INVB
*FOR GAIN OF 100 DEFINE /SCNCAP=2P, 
*FOR GAIN OF 50 DEFINE /SCNCAP=4P
*DEFINE /SCNCAP=2P
X19 31 30 19 34 ZINT  {TD=1U C=32P } 
X2 35 36 2 33 ZINT  {TD=1U C=32P } 
X4 1 35 CRES  {C= /SCNCAP } 
X5 5 35 CRES  {C= /SCNCAP } 
X8 2 29 NSTR  {TD=1U C= /SCNCAP } 
X9 28 29 1 32 ZINT  {TD=1U C=32P } 
XE1 4 15 3 SCNAMP
X11 3 35 NSTR  {TD=1U C= /SCNCAP } 
X20 15 31 CRES  {C= /SCNCAP } 
X21 16 31 CRES  {C= /SCNCAP } 
X22 19 38 NSTR  {TD=1U C= /SCNCAP } 
X23 37 38 20 40 ZINT  {TD=1U C=32P } 
X24 18 31 NSTR  {TD=1U C= /SCNCAP } 
XE2 17 15 18 SCNAMP
.ENDS
**************
